US06949571B2
3-(2-Cyanophenyl)-1-(1-benzylpiperidin-4-yl)methyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one
80 mg of 3-(2-cyanophenyl)-1-(piperidin-4-yl)methyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one was dissolved in 2 ml of chloroform. To the mixture were added 73 mg of benzaldehyde, 97 mg of triacetoxy sodium borohydride and 41 mg of acetic acid, followed by stirring at room temperature for 4 hours. The reaction solution was diluted with chloroform, and washed with a saturated aqueous solution of sodium hydrogen carbonate and brine. The organic layer was dried over magnesium sulfate. Then the mixture was evaporated, and the residue was purified by NH silica gel chromatography (hexane/ethyl acetate system), to give 80 mg of the title compound.

reactant | 3-(2-cyanophenyl)-1-(piperidin-4-yl)methyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 80 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)CC1CCNCC1)=O | C23H22N4O
reactant | benzaldehyde | 73 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 41 mg | C(C)(=O)O | C2H4O2
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-Cyanophenyl)-1-(1-benzylpiperidin-4-yl)methyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 80 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)CC1CCN(CC1)CC1=CC=CC=C1)=O | C30H28N4O
